US04294832
8.6 g of methyl acrylate are added dropwise to 5.9 g of isopropylamine under ice-cooling and stirring. The mixture is further stirred at room temperature for 5 hours. Then, the reaction mixture is distilled under reduced pressure. 12.3 g of methyl 3-isopropylaminopropionate are thereby obtained as a colorless oil. Yield: 84.5%

reactant | methyl acrylate | 8.6 g | C(C=C)(=O)OC | C4H6O2
reactant | isopropylamine | 5.9 g | C(C)(C)N | C3H9N
product | methyl 3-isopropylaminopropionate | 12.3 g, Yield: 84.5% | C(C)(C)NCCC(=O)OC | C7H15NO2
